US06642389B2
In analogy to the procedure described in example 120 f], [rac]-2-ethoxy-3-(4-hydroxy-2-methyl-phenyl)-propionic acid ethyl ester (example 129 c]) was reacted with 4-chloromethyl-5-methyl-2-thiophen-2-yl-oxazole in the presence of potassium carbonate and potassium iodide to yield [rac]-2-ethoxy-3-[2-methyl-4-(5-methyl-2-thiophen-2-yl-oxazol-4-ylmethoxy)-phenyl]-propionic acid ethyl ester, which was further saponified in analogy to the procedure described in example 120 f] to yield [rac]-2-ethoxy-3-[2-methyl-4-(5-methyl-2-thiophen-2-yl-oxazol-4-ylmethoxy)-phenyl]-propionic acid as light yellow solid. MS: 400.3 (M−H)−, 354.1, 281.2. NMR: (CDCl3, 1H, 300 MHz, δ, TMS) 1.13 (t, J=7.2, 3H), 2.34 (s, 3H), 2.41 (s, 3H), 2.93 (d×d, J=15.2, J=8.8, 1H), 3.12 (d×d, J=15.2, J=4, 1H), 3.30-3.38 (m, 1H), 3.49-3.57 (m, 1H), 4.01 (d×d, J=8, J=4.8, 1H), 4.94 (s, 2H), 6.78 (d×d, J=8, J=1.6, 1H), 6.82 (d, J=1.6, 1H), 7.08-7.14 (m, 2H), 7.40 (d×d, J=4.8, J=0.8, 1H), 7.64 (d×d, J=4.0, J=0.8, 1H).

reactant | [rac]-2-ethoxy-3-(4-hydroxy-2-methyl-phenyl)-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)O)C)OCC)=O | C14H20O4
reactant | 4-chloromethyl-5-methyl-2-thiophen-2-yl-oxazole | ClCC=1N=C(OC1C)C=1SC=CC1 | C9H8ClNOS
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
product | [rac]-2-ethoxy-3-[2-methyl-4-(5-methyl-2-thiophen-2-yl-oxazol-4-ylmethoxy)-phenyl]-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)OCC=1N=C(OC1C)C=1SC=CC1)C)OCC)=O | C23H27NO5S
